US08420816B2
3-oxo-3-(4-(5-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)piperidin-1-yl)propanenitrile
4-(Piperidin-4-yl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-5(1H)-one (34 mg, 0.133 mmol) and triethylamine (0.055 mL, 0.398 mmol) were dissolved in EtOH (4 mL) and cooled to 0° C. and allowed to stir for 10 min. Then 2,5-dioxopyrrolidin-1-yl 2-cyanoacetate (29 mg, 0.159 mmol) dissolved in EtOH (1 mL) was added dropwise and the mixture was allowed to stir for 30 min at 0° C. The solution was concentrated in vacuo and purified via preparative HPLC eluting with 10% to 40% B in A and gave 10 mg of the title compound as its TFA salt. 1H NMR (400 MHz, CD3OD) δ 7.60 (m, 1H), 7.43 (m, 1H), 4.98 (s, 2H), 4.84-4.88 (m, 1H), 4.68-4.72 (m, 1H), 3.89-3.95 (m, 3H), 3.33 (m, 1H), 2.80-2.88 (m, 1H), 1.86-2.05 (m, 4H). [M+H] found 324.

reactant | 4-(Piperidin-4-yl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-5(1H)-one | 0.133 mmol, 34 mg | N1CCC(CC1)N1C(C=2C=CN=C3C2C(C1)=CN3)=O | C14H16N4O
reactant | triethylamine | 0.398 mmol, 0.055 mL | C(C)N(CC)CC | C6H15N
reactant | 2,5-dioxopyrrolidin-1-yl 2-cyanoacetate | 0.159 mmol, 29 mg | C(#N)CC(=O)ON1C(CCC1=O)=O | C7H6N2O4
solvent | EtOH | 4 mL | CCO | C2H6O
solvent | EtOH | 1 mL | CCO | C2H6O
product | 3-oxo-3-(4-(5-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)piperidin-1-yl)propanenitrile | 10 mg | O=C(CC#N)N1CCC(CC1)N1C(C=2C=CN=C3C2C(C1)=CN3)=O | C17H17N5O2
